### PR TITLE
[Merged by Bors] - chore(Data/Array): golf entire `extract_append_left'` using `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>extract_append_left'</code>: 24 ms before, <10 ms after  🎉</summary>

### Trace profiling of `extract_append_left'` before PR 28310
```diff
diff --git a/Mathlib/Data/Array/Extract.lean b/Mathlib/Data/Array/Extract.lean
index 36272f553e..b09b7733a2 100644
--- a/Mathlib/Data/Array/Extract.lean
+++ b/Mathlib/Data/Array/Extract.lean
@@ -21,6 +21,7 @@ theorem extract_eq_nil_of_start_eq_end {a : Array α} :
   refine extract_empty_of_stop_le_start ?h
   exact Nat.le_refl i
 
+set_option trace.profiler true in
 /--
 This is a stronger version of `Array.extract_append_left`,
 and should be upstreamed to replace that.
```
```
ℹ [34/34] Built Mathlib.Data.Array.Extract
info: Mathlib/Data/Array/Extract.lean:25:0: [Elab.async] [0.024455] elaborating proof of Array.extract_append_left'
  [Elab.definition.value] [0.023883] Array.extract_append_left'
    [Elab.step] [0.023625] 
          apply ext
          · simp only [size_extract, size_append]
            omega
          · intro h1 h2 h3
            rw [getElem_extract, getElem_append_left, getElem_extract]
      [Elab.step] [0.023619] 
            apply ext
            · simp only [size_extract, size_append]
              omega
            · intro h1 h2 h3
              rw [getElem_extract, getElem_append_left, getElem_extract]
        [Elab.step] [0.021656] ·
              simp only [size_extract, size_append]
              omega
          [Elab.step] [0.021642] 
                simp only [size_extract, size_append]
                omega
            [Elab.step] [0.021637] 
                  simp only [size_extract, size_append]
                  omega
              [Elab.step] [0.018777] omega
info: Mathlib/Data/Array/Extract.lean:33:4: [Elab.async] [0.041278] Lean.addDecl
  [Kernel] [0.041260] typechecking declarations [Array.extract_append_left'._proof_1_1]
Build completed successfully.
```

### Trace profiling of `extract_append_left'` after PR 28310
```diff
diff --git a/Mathlib/Data/Array/Extract.lean b/Mathlib/Data/Array/Extract.lean
index 36272f553e..1cdfe6345d 100644
--- a/Mathlib/Data/Array/Extract.lean
+++ b/Mathlib/Data/Array/Extract.lean
@@ -21,17 +21,14 @@ theorem extract_eq_nil_of_start_eq_end {a : Array α} :
   refine extract_empty_of_stop_le_start ?h
   exact Nat.le_refl i
 
+set_option trace.profiler true in
 /--
 This is a stronger version of `Array.extract_append_left`,
 and should be upstreamed to replace that.
 -/
 theorem extract_append_left' {a b : Array α} {i j : Nat} (h : j ≤ a.size) :
     (a ++ b).extract i j = a.extract i j := by
-  apply ext
-  · simp only [size_extract, size_append]
-    omega
-  · intro h1 h2 h3
-    rw [getElem_extract, getElem_append_left, getElem_extract]
+  simp_all
 
 /--
 This is a stronger version of `Array.extract_append_right`,
```
```
✔ [34/34] Built Mathlib.Data.Array.Extract
Build completed successfully.
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Array/Extract.lean [hunk 1]
```diff
@@ -27,11 +27,7 @@ and should be upstreamed to replace that.
 -/
 theorem extract_append_left' {a b : Array α} {i j : Nat} (h : j ≤ a.size) :
     (a ++ b).extract i j = a.extract i j := by
-  apply ext
-  · simp only [size_extract, size_append]
-    omega
-  · intro h1 h2 h3
-    rw [getElem_extract, getElem_append_left, getElem_extract]
+  simp_all
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Array/Extract.lean]: I'd suggest
```suggestion
  simp [h]
```
(If you take the suggestion, please update the PR title.)

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
